US05280032
A solution of 7.5 g of (+)-diisopinocamphenylchloroborane dissolved in 15 ml of tetrahydrofuran was cooled to -25° C. Thereto was added 4 g of 5-bromoacetylbenzo[b]thiophene. The resulting mixture was stirred for 4 hours at -20° C. to -15° C. The reaction mixture was added to a mixture of 80 ml of ethyl acetate and 80 ml of ice water. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure The residue thus obtained was purified by column chromatography (eluant: hexane:ethyl acetate=10:1) to obtain 3.8 of (R)-1-(benzo[b]thiophen-5-yl)-2-bromoethanol.

reactant | 5-bromoacetylbenzo[b]thiophene | 4 g | BrCC(=O)C1=CC2=C(SC=C2)C=C1 | C10H7BrOS
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (R)-1-(benzo[b]thiophen-5-yl)-2-bromoethanol | S1C2=C(C=C1)C=C(C=C2)[C@H](CBr)O | C10H9BrOS
